US06500985B2
L-phenylalanine methyl ester hydrochloride (4.31 g), p-anisaldehyde (2.45 ml), anhydrous magnesium sulfate (5.19 g) and triethylamine (2.9 ml) were added to methylene chloride (200 ml), and the mixture was stirred overnight at room temperature. The solid was filtered off from the reaction solution, and the solvent was distilled off under reduced pressure. Then, ethyl acetate (150 ml) was added to the residue. The solid was separated again by filtration, and the solvent was distilled off under reduced pressure to quantitatively obtain desired N-(p-methoxyphenylmethylene)-L-phenylalanine methyl ester (5.94 g).

reactant | L-phenylalanine methyl ester hydrochloride | 4.31 g | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | p-anisaldehyde | 2.45 ml | C(C1=CC=C(C=C1)OC)=O | C8H8O2
reactant | magnesium sulfate | 5.19 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | triethylamine | 2.9 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | N-(p-methoxyphenylmethylene)-L-phenylalanine methyl ester | 5.94 g | COC([C@@H](N=CC1=CC=C(C=C1)OC)CC1=CC=CC=C1)=O | C18H19NO3
